US04745196
[4-(4-Fluorophenyl)butyl]phosphinic acid, 1-adamantanamine salt (1.18 g.) is partitioned between 1.0N hydrochloric acid and ethyl acetate. The organic phase is washed with brine and dried over anhydrous sodium sulfate. The mixture is evaporated to give 696 mg. of [4-(4-fluorophenyl)butyl]phosphinic acid. This acid (696 mg., 3.22 mmole, 1.5 eq.) is dissolved in dry tetrahydrofuran (15 ml.), combined with 1-[(S)-6-[[(phenylmethoxy)carbonyl]amino]-2-hydroxy-1-oxohexyl]-L-proline, phenylmethyl ester (1.01 g., 2.15 mmole, 1 eq.) and treated with dicyclohexylcarbodiimide (664 mg., 3.22 mmole, 1.5 eq.) and dimethylaminopyridine (39 mg., 0.15 eq.). The white suspension is stirred under argon for 1 hour at room temperature, then diluted with ethyl acetate, and filtered to remove dicyclohexyl urea. The filtrate is washed with 5% potassium bisulfate, saturated sodium bicarbonate, and brine, then dried over anhydrous sodium sulfate, and evaporated to an oily residue. Chromatography on a 3/4 inch pad of SiliCAR CC-7 silica gel eluting with ethyl ether:acetone (8:2) removes impurities. Product containing fractions are pooled and evaporated to give crude 1-[(S)-6-[[(phenylmethoxy)carbonyl]amino]-2-[[[4-(4-fluorophenyl)butyl]phosphinyl]oxy]-1-oxohexyl]-L-proline, phenylmethyl ester as an oil. TLC (silica gel; ethyl ether:acetone, 8:2) Rf =0.09.

reactant | [4-(4-fluorophenyl)butyl]phosphinic acid | FC1=CC=C(C=C1)CCCCP(O)=O | C10H14FO2P
reactant | 1-[(S)-6-[[(phenylmethoxy)carbonyl]amino]-2-hydroxy-1-oxohexyl]-L-proline, phenylmethyl ester | 2.15 mmole, 1.01 g, 1 eq. | C1(=CC=CC=C1)COC(=O)NCCCC[C@@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)O | C26H32N2O6
reactant | dicyclohexylcarbodiimide | 3.22 mmole, 664 mg, 1.5 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 39 mg, 0.15 eq. | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(S)-6-[[(phenylmethoxy)carbonyl]amino]-2-[[[4-(4-fluorophenyl)butyl]phosphinyl]oxy]-1-oxohexyl]-L-proline, phenylmethyl ester | C1(=CC=CC=C1)COC(=O)NCCCC[C@@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)OP(=O)CCCCC1=CC=C(C=C1)F | C36H44FN2O7P
